US04792616
A solution of 32.4 g of 2-bromopropionyl bromide in 70 ml of diethyl ether is added dropwise within one hour while cooling with ice to a solution, cooled to 0° C., of ethyl 2-hyroxyethylcarbamate and 13.1 g of pyridine in 80 ml of diethyl ether. The reaction mixture is then stirred at room temperature for 45 minutes. For the working-up, the mxture is filtered under suction through Celite and the filtrate is poured into water. The aqeuous phase is extracted twice with diethyl ether, and the combined organic phases are washed twice with water and once with saturated sodium chloride solution, dried over anhydrous sodium sulphate and evaporated to dryness. There is obtained ethyl 2-(2-bromopropionyloxy)-ethylcarbamate as a colourless oil which either can be used in the reaction without further purification or can be purified further by chromatography on silica gel with n-hexane/diethyl ether (1:1); nD20 1.4770.

reactant | 2-bromopropionyl bromide | 32.4 g | BrC(C(=O)Br)C | C3H4Br2O
reactant | ethyl 2-hyroxyethylcarbamate | OCCNC(OCC)=O | C5H11NO3
reactant | pyridine | 13.1 g | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | 70 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 80 ml | C(C)OCC | C4H10O
product | ethyl 2-(2-bromopropionyloxy)-ethylcarbamate | BrC(C(=O)OCCNC(OCC)=O)C | C8H14BrNO4
